* Ideal crossbar read-energy validation
* rows=128 cols=128 pulse_ns=10
* Each row is collapsed to an equivalent conductance because columns are ideal virtual ground.
Vrow0 row0 0 PULSE(0 0 0 0.001n 0.001n 10n 30n)
Vrow1 row1 0 PULSE(0 0.00511631884733 0 0.001n 0.001n 10n 30n)
Vrow2 row2 0 PULSE(0 0.0785065009429 0 0.001n 0.001n 10n 30n)
Vrow3 row3 0 PULSE(0 0 0 0.001n 0.001n 10n 30n)
Vrow4 row4 0 PULSE(0 0 0 0.001n 0.001n 10n 30n)
Vrow5 row5 0 PULSE(0 0 0 0.001n 0.001n 10n 30n)
Vrow6 row6 0 PULSE(0 0 0 0.001n 0.001n 10n 30n)
Vrow7 row7 0 PULSE(0 0 0 0.001n 0.001n 10n 30n)
Vrow8 row8 0 PULSE(0 0 0 0.001n 0.001n 10n 30n)
Vrow9 row9 0 PULSE(0 0 0 0.001n 0.001n 10n 30n)
Vrow10 row10 0 PULSE(0 0 0 0.001n 0.001n 10n 30n)
Vrow11 row11 0 PULSE(0 0 0 0.001n 0.001n 10n 30n)
Vrow12 row12 0 PULSE(0 0 0 0.001n 0.001n 10n 30n)
Vrow13 row13 0 PULSE(0 0 0 0.001n 0.001n 10n 30n)
Vrow14 row14 0 PULSE(0 0 0 0.001n 0.001n 10n 30n)
Vrow15 row15 0 PULSE(0 0 0 0.001n 0.001n 10n 30n)
Vrow16 row16 0 PULSE(0 0 0 0.001n 0.001n 10n 30n)
Vrow17 row17 0 PULSE(0 0 0 0.001n 0.001n 10n 30n)
Vrow18 row18 0 PULSE(0 0 0 0.001n 0.001n 10n 30n)
Vrow19 row19 0 PULSE(0 0 0 0.001n 0.001n 10n 30n)
Vrow20 row20 0 PULSE(0 0 0 0.001n 0.001n 10n 30n)
Vrow21 row21 0 PULSE(0 0 0 0.001n 0.001n 10n 30n)
Vrow22 row22 0 PULSE(0 0 0 0.001n 0.001n 10n 30n)
Vrow23 row23 0 PULSE(0 0 0 0.001n 0.001n 10n 30n)
Vrow24 row24 0 PULSE(0 0 0 0.001n 0.001n 10n 30n)
Vrow25 row25 0 PULSE(0 0 0 0.001n 0.001n 10n 30n)
Vrow26 row26 0 PULSE(0 0.1 0 0.001n 0.001n 10n 30n)
Vrow27 row27 0 PULSE(0 0 0 0.001n 0.001n 10n 30n)
Vrow28 row28 0 PULSE(0 0 0 0.001n 0.001n 10n 30n)
Vrow29 row29 0 PULSE(0 0 0 0.001n 0.001n 10n 30n)
Vrow30 row30 0 PULSE(0 0 0 0.001n 0.001n 10n 30n)
Vrow31 row31 0 PULSE(0 0 0 0.001n 0.001n 10n 30n)
Vrow32 row32 0 PULSE(0 0 0 0.001n 0.001n 10n 30n)
Vrow33 row33 0 PULSE(0 0 0 0.001n 0.001n 10n 30n)
Vrow34 row34 0 PULSE(0 0 0 0.001n 0.001n 10n 30n)
Vrow35 row35 0 PULSE(0 0 0 0.001n 0.001n 10n 30n)
Vrow36 row36 0 PULSE(0 0 0 0.001n 0.001n 10n 30n)
Vrow37 row37 0 PULSE(0 0 0 0.001n 0.001n 10n 30n)
Vrow38 row38 0 PULSE(0 0 0 0.001n 0.001n 10n 30n)
Vrow39 row39 0 PULSE(0 0 0 0.001n 0.001n 10n 30n)
Vrow40 row40 0 PULSE(0 0.0444013095022 0 0.001n 0.001n 10n 30n)
Vrow41 row41 0 PULSE(0 0 0 0.001n 0.001n 10n 30n)
Vrow42 row42 0 PULSE(0 0 0 0.001n 0.001n 10n 30n)
Vrow43 row43 0 PULSE(0 0.00780626671335 0 0.001n 0.001n 10n 30n)
Vrow44 row44 0 PULSE(0 0 0 0.001n 0.001n 10n 30n)
Vrow45 row45 0 PULSE(0 0 0 0.001n 0.001n 10n 30n)
Vrow46 row46 0 PULSE(0 0 0 0.001n 0.001n 10n 30n)
Vrow47 row47 0 PULSE(0 0.00220624288755 0 0.001n 0.001n 10n 30n)
Vrow48 row48 0 PULSE(0 0 0 0.001n 0.001n 10n 30n)
Vrow49 row49 0 PULSE(0 0 0 0.001n 0.001n 10n 30n)
Vrow50 row50 0 PULSE(0 0 0 0.001n 0.001n 10n 30n)
Vrow51 row51 0 PULSE(0 0 0 0.001n 0.001n 10n 30n)
Vrow52 row52 0 PULSE(0 0 0 0.001n 0.001n 10n 30n)
Vrow53 row53 0 PULSE(0 0 0 0.001n 0.001n 10n 30n)
Vrow54 row54 0 PULSE(0 0 0 0.001n 0.001n 10n 30n)
Vrow55 row55 0 PULSE(0 0 0 0.001n 0.001n 10n 30n)
Vrow56 row56 0 PULSE(0 0 0 0.001n 0.001n 10n 30n)
Vrow57 row57 0 PULSE(0 0.0194967545699 0 0.001n 0.001n 10n 30n)
Vrow58 row58 0 PULSE(0 0 0 0.001n 0.001n 10n 30n)
Vrow59 row59 0 PULSE(0 0 0 0.001n 0.001n 10n 30n)
Vrow60 row60 0 PULSE(0 0.0183802961818 0 0.001n 0.001n 10n 30n)
Vrow61 row61 0 PULSE(0 0.00999057871397 0 0.001n 0.001n 10n 30n)
Vrow62 row62 0 PULSE(0 0 0 0.001n 0.001n 10n 30n)
Vrow63 row63 0 PULSE(0 0.0277610377873 0 0.001n 0.001n 10n 30n)
Vrow64 row64 0 PULSE(0 0 0 0.001n 0.001n 10n 30n)
Vrow65 row65 0 PULSE(0 0 0 0.001n 0.001n 10n 30n)
Vrow66 row66 0 PULSE(0 0 0 0.001n 0.001n 10n 30n)
Vrow67 row67 0 PULSE(0 0 0 0.001n 0.001n 10n 30n)
Vrow68 row68 0 PULSE(0 0 0 0.001n 0.001n 10n 30n)
Vrow69 row69 0 PULSE(0 0 0 0.001n 0.001n 10n 30n)
Vrow70 row70 0 PULSE(0 0 0 0.001n 0.001n 10n 30n)
Vrow71 row71 0 PULSE(0 0.0431465871351 0 0.001n 0.001n 10n 30n)
Vrow72 row72 0 PULSE(0 0 0 0.001n 0.001n 10n 30n)
Vrow73 row73 0 PULSE(0 0 0 0.001n 0.001n 10n 30n)
Vrow74 row74 0 PULSE(0 0.0014349066022 0 0.001n 0.001n 10n 30n)
Vrow75 row75 0 PULSE(0 0 0 0.001n 0.001n 10n 30n)
Vrow76 row76 0 PULSE(0 0.0707289536879 0 0.001n 0.001n 10n 30n)
Vrow77 row77 0 PULSE(0 0 0 0.001n 0.001n 10n 30n)
Vrow78 row78 0 PULSE(0 0 0 0.001n 0.001n 10n 30n)
Vrow79 row79 0 PULSE(0 0 0 0.001n 0.001n 10n 30n)
Vrow80 row80 0 PULSE(0 0.00404069681828 0 0.001n 0.001n 10n 30n)
Vrow81 row81 0 PULSE(0 0 0 0.001n 0.001n 10n 30n)
Vrow82 row82 0 PULSE(0 0 0 0.001n 0.001n 10n 30n)
Vrow83 row83 0 PULSE(0 0 0 0.001n 0.001n 10n 30n)
Vrow84 row84 0 PULSE(0 0 0 0.001n 0.001n 10n 30n)
Vrow85 row85 0 PULSE(0 0 0 0.001n 0.001n 10n 30n)
Vrow86 row86 0 PULSE(0 0 0 0.001n 0.001n 10n 30n)
Vrow87 row87 0 PULSE(0 0 0 0.001n 0.001n 10n 30n)
Vrow88 row88 0 PULSE(0 0 0 0.001n 0.001n 10n 30n)
Vrow89 row89 0 PULSE(0 0 0 0.001n 0.001n 10n 30n)
Vrow90 row90 0 PULSE(0 0 0 0.001n 0.001n 10n 30n)
Vrow91 row91 0 PULSE(0 0 0 0.001n 0.001n 10n 30n)
Vrow92 row92 0 PULSE(0 0 0 0.001n 0.001n 10n 30n)
Vrow93 row93 0 PULSE(0 0 0 0.001n 0.001n 10n 30n)
Vrow94 row94 0 PULSE(0 0 0 0.001n 0.001n 10n 30n)
Vrow95 row95 0 PULSE(0 0 0 0.001n 0.001n 10n 30n)
Vrow96 row96 0 PULSE(0 0 0 0.001n 0.001n 10n 30n)
Vrow97 row97 0 PULSE(0 0 0 0.001n 0.001n 10n 30n)
Vrow98 row98 0 PULSE(0 0 0 0.001n 0.001n 10n 30n)
Vrow99 row99 0 PULSE(0 0 0 0.001n 0.001n 10n 30n)
Vrow100 row100 0 PULSE(0 0 0 0.001n 0.001n 10n 30n)
Vrow101 row101 0 PULSE(0 0 0 0.001n 0.001n 10n 30n)
Vrow102 row102 0 PULSE(0 0 0 0.001n 0.001n 10n 30n)
Vrow103 row103 0 PULSE(0 0 0 0.001n 0.001n 10n 30n)
Vrow104 row104 0 PULSE(0 0 0 0.001n 0.001n 10n 30n)
Vrow105 row105 0 PULSE(0 0 0 0.001n 0.001n 10n 30n)
Vrow106 row106 0 PULSE(0 0 0 0.001n 0.001n 10n 30n)
Vrow107 row107 0 PULSE(0 0 0 0.001n 0.001n 10n 30n)
Vrow108 row108 0 PULSE(0 0 0 0.001n 0.001n 10n 30n)
Vrow109 row109 0 PULSE(0 0 0 0.001n 0.001n 10n 30n)
Vrow110 row110 0 PULSE(0 0 0 0.001n 0.001n 10n 30n)
Vrow111 row111 0 PULSE(0 0 0 0.001n 0.001n 10n 30n)
Vrow112 row112 0 PULSE(0 0.00753786944765 0 0.001n 0.001n 10n 30n)
Vrow113 row113 0 PULSE(0 0 0 0.001n 0.001n 10n 30n)
Vrow114 row114 0 PULSE(0 0 0 0.001n 0.001n 10n 30n)
Vrow115 row115 0 PULSE(0 0 0 0.001n 0.001n 10n 30n)
Vrow116 row116 0 PULSE(0 0 0 0.001n 0.001n 10n 30n)
Vrow117 row117 0 PULSE(0 0 0 0.001n 0.001n 10n 30n)
Vrow118 row118 0 PULSE(0 0 0 0.001n 0.001n 10n 30n)
Vrow119 row119 0 PULSE(0 0 0 0.001n 0.001n 10n 30n)
Vrow120 row120 0 PULSE(0 0 0 0.001n 0.001n 10n 30n)
Vrow121 row121 0 PULSE(0 0 0 0.001n 0.001n 10n 30n)
Vrow122 row122 0 PULSE(0 0 0 0.001n 0.001n 10n 30n)
Vrow123 row123 0 PULSE(0 0 0 0.001n 0.001n 10n 30n)
Vrow124 row124 0 PULSE(0 0 0 0.001n 0.001n 10n 30n)
Vrow125 row125 0 PULSE(0 0 0 0.001n 0.001n 10n 30n)
Vrow126 row126 0 PULSE(0 0 0 0.001n 0.001n 10n 30n)
Vrow127 row127 0 PULSE(0 0.0307334759239 0 0.001n 0.001n 10n 30n)
Reqrow0 row0 0 203.945113416
Reqrow1 row1 0 213.808555037
Reqrow2 row2 0 231.699472659
Reqrow3 row3 0 232.140617959
Reqrow4 row4 0 211.081763753
Reqrow5 row5 0 229.697523127
Reqrow6 row6 0 214.837919786
Reqrow7 row7 0 218.769669464
Reqrow8 row8 0 209.509032181
Reqrow9 row9 0 229.181005548
Reqrow10 row10 0 194.688966214
Reqrow11 row11 0 216.788956938
Reqrow12 row12 0 205.935900606
Reqrow13 row13 0 203.251735903
Reqrow14 row14 0 209.689592403
Reqrow15 row15 0 232.588719954
Reqrow16 row16 0 202.768453998
Reqrow17 row17 0 220.688551286
Reqrow18 row18 0 221.104608889
Reqrow19 row19 0 221.844019821
Reqrow20 row20 0 233.390034124
Reqrow21 row21 0 214.886813949
Reqrow22 row22 0 223.508089758
Reqrow23 row23 0 220.647278993
Reqrow24 row24 0 196.498232621
Reqrow25 row25 0 209.864340097
Reqrow26 row26 0 218.42203319
Reqrow27 row27 0 211.243800366
Reqrow28 row28 0 200.979493904
Reqrow29 row29 0 245.527703889
Reqrow30 row30 0 247.501758619
Reqrow31 row31 0 214.089135159
Reqrow32 row32 0 194.44000486
Reqrow33 row33 0 210.045269191
Reqrow34 row34 0 215.545671906
Reqrow35 row35 0 209.321892873
Reqrow36 row36 0 205.679326336
Reqrow37 row37 0 208.64841594
Reqrow38 row38 0 211.181920105
Reqrow39 row39 0 226.613073391
Reqrow40 row40 0 212.45636089
Reqrow41 row41 0 208.815823087
Reqrow42 row42 0 223.202656651
Reqrow43 row43 0 236.064671518
Reqrow44 row44 0 223.237074387
Reqrow45 row45 0 220.367255113
Reqrow46 row46 0 224.878582032
Reqrow47 row47 0 219.465685854
Reqrow48 row48 0 209.072617968
Reqrow49 row49 0 206.316593096
Reqrow50 row50 0 210.232944459
Reqrow51 row51 0 194.325222276
Reqrow52 row52 0 226.600237795
Reqrow53 row53 0 217.486301226
Reqrow54 row54 0 197.71209167
Reqrow55 row55 0 227.871734903
Reqrow56 row56 0 226.432501608
Reqrow57 row57 0 207.254235814
Reqrow58 row58 0 203.91030468
Reqrow59 row59 0 235.046782736
Reqrow60 row60 0 222.251305574
Reqrow61 row61 0 191.929622571
Reqrow62 row62 0 233.594489065
Reqrow63 row63 0 208.427376347
Reqrow64 row64 0 231.567217732
Reqrow65 row65 0 206.112102268
Reqrow66 row66 0 210.069560532
Reqrow67 row67 0 193.082666121
Reqrow68 row68 0 242.943221353
Reqrow69 row69 0 218.511220248
Reqrow70 row70 0 214.026200186
Reqrow71 row71 0 218.887280882
Reqrow72 row72 0 202.639293499
Reqrow73 row73 0 208.861878808
Reqrow74 row74 0 212.920870566
Reqrow75 row75 0 189.83807772
Reqrow76 row76 0 225.94222717
Reqrow77 row77 0 241.559715317
Reqrow78 row78 0 203.449754838
Reqrow79 row79 0 225.801805339
Reqrow80 row80 0 206.358926377
Reqrow81 row81 0 213.10255325
Reqrow82 row82 0 208.308002369
Reqrow83 row83 0 229.674125225
Reqrow84 row84 0 222.087373429
Reqrow85 row85 0 203.141072564
Reqrow86 row86 0 212.693096303
Reqrow87 row87 0 223.212642699
Reqrow88 row88 0 260.719832489
Reqrow89 row89 0 228.660213206
Reqrow90 row90 0 193.907067863
Reqrow91 row91 0 215.018154338
Reqrow92 row92 0 208.717569916
Reqrow93 row93 0 209.721627396
Reqrow94 row94 0 218.251080436
Reqrow95 row95 0 208.867043579
Reqrow96 row96 0 227.202727293
Reqrow97 row97 0 224.957173488
Reqrow98 row98 0 188.202786905
Reqrow99 row99 0 222.817559176
Reqrow100 row100 0 209.658359639
Reqrow101 row101 0 229.90653601
Reqrow102 row102 0 205.347225309
Reqrow103 row103 0 215.301037307
Reqrow104 row104 0 255.21120512
Reqrow105 row105 0 203.323438934
Reqrow106 row106 0 213.92669941
Reqrow107 row107 0 226.36569189
Reqrow108 row108 0 226.422431469
Reqrow109 row109 0 203.060225359
Reqrow110 row110 0 233.281002232
Reqrow111 row111 0 227.778061355
Reqrow112 row112 0 213.378303315
Reqrow113 row113 0 208.722349249
Reqrow114 row114 0 204.511412762
Reqrow115 row115 0 223.405066852
Reqrow116 row116 0 235.312262776
Reqrow117 row117 0 211.231199383
Reqrow118 row118 0 201.756346686
Reqrow119 row119 0 213.265490966
Reqrow120 row120 0 249.856895105
Reqrow121 row121 0 217.427303974
Reqrow122 row122 0 193.722238165
Reqrow123 row123 0 204.914045784
Reqrow124 row124 0 213.928021338
Reqrow125 row125 0 203.436776939
Reqrow126 row126 0 227.000667231
Reqrow127 row127 0 221.633534729
Bpwr pwr 0 v = (v(row0)*v(row0)/203.945113416) + (v(row1)*v(row1)/213.808555037) + (v(row2)*v(row2)/231.699472659) + (v(row3)*v(row3)/232.140617959) + (v(row4)*v(row4)/211.081763753) + (v(row5)*v(row5)/229.697523127) + (v(row6)*v(row6)/214.837919786) + (v(row7)*v(row7)/218.769669464) + (v(row8)*v(row8)/209.509032181) + (v(row9)*v(row9)/229.181005548) + (v(row10)*v(row10)/194.688966214) + (v(row11)*v(row11)/216.788956938) + (v(row12)*v(row12)/205.935900606) + (v(row13)*v(row13)/203.251735903) + (v(row14)*v(row14)/209.689592403) + (v(row15)*v(row15)/232.588719954) + (v(row16)*v(row16)/202.768453998) + (v(row17)*v(row17)/220.688551286) + (v(row18)*v(row18)/221.104608889) + (v(row19)*v(row19)/221.844019821) + (v(row20)*v(row20)/233.390034124) + (v(row21)*v(row21)/214.886813949) + (v(row22)*v(row22)/223.508089758) + (v(row23)*v(row23)/220.647278993) + (v(row24)*v(row24)/196.498232621) + (v(row25)*v(row25)/209.864340097) + (v(row26)*v(row26)/218.42203319) + (v(row27)*v(row27)/211.243800366) + (v(row28)*v(row28)/200.979493904) + (v(row29)*v(row29)/245.527703889) + (v(row30)*v(row30)/247.501758619) + (v(row31)*v(row31)/214.089135159) + (v(row32)*v(row32)/194.44000486) + (v(row33)*v(row33)/210.045269191) + (v(row34)*v(row34)/215.545671906) + (v(row35)*v(row35)/209.321892873) + (v(row36)*v(row36)/205.679326336) + (v(row37)*v(row37)/208.64841594) + (v(row38)*v(row38)/211.181920105) + (v(row39)*v(row39)/226.613073391) + (v(row40)*v(row40)/212.45636089) + (v(row41)*v(row41)/208.815823087) + (v(row42)*v(row42)/223.202656651) + (v(row43)*v(row43)/236.064671518) + (v(row44)*v(row44)/223.237074387) + (v(row45)*v(row45)/220.367255113) + (v(row46)*v(row46)/224.878582032) + (v(row47)*v(row47)/219.465685854) + (v(row48)*v(row48)/209.072617968) + (v(row49)*v(row49)/206.316593096) + (v(row50)*v(row50)/210.232944459) + (v(row51)*v(row51)/194.325222276) + (v(row52)*v(row52)/226.600237795) + (v(row53)*v(row53)/217.486301226) + (v(row54)*v(row54)/197.71209167) + (v(row55)*v(row55)/227.871734903) + (v(row56)*v(row56)/226.432501608) + (v(row57)*v(row57)/207.254235814) + (v(row58)*v(row58)/203.91030468) + (v(row59)*v(row59)/235.046782736) + (v(row60)*v(row60)/222.251305574) + (v(row61)*v(row61)/191.929622571) + (v(row62)*v(row62)/233.594489065) + (v(row63)*v(row63)/208.427376347) + (v(row64)*v(row64)/231.567217732) + (v(row65)*v(row65)/206.112102268) + (v(row66)*v(row66)/210.069560532) + (v(row67)*v(row67)/193.082666121) + (v(row68)*v(row68)/242.943221353) + (v(row69)*v(row69)/218.511220248) + (v(row70)*v(row70)/214.026200186) + (v(row71)*v(row71)/218.887280882) + (v(row72)*v(row72)/202.639293499) + (v(row73)*v(row73)/208.861878808) + (v(row74)*v(row74)/212.920870566) + (v(row75)*v(row75)/189.83807772) + (v(row76)*v(row76)/225.94222717) + (v(row77)*v(row77)/241.559715317) + (v(row78)*v(row78)/203.449754838) + (v(row79)*v(row79)/225.801805339) + (v(row80)*v(row80)/206.358926377) + (v(row81)*v(row81)/213.10255325) + (v(row82)*v(row82)/208.308002369) + (v(row83)*v(row83)/229.674125225) + (v(row84)*v(row84)/222.087373429) + (v(row85)*v(row85)/203.141072564) + (v(row86)*v(row86)/212.693096303) + (v(row87)*v(row87)/223.212642699) + (v(row88)*v(row88)/260.719832489) + (v(row89)*v(row89)/228.660213206) + (v(row90)*v(row90)/193.907067863) + (v(row91)*v(row91)/215.018154338) + (v(row92)*v(row92)/208.717569916) + (v(row93)*v(row93)/209.721627396) + (v(row94)*v(row94)/218.251080436) + (v(row95)*v(row95)/208.867043579) + (v(row96)*v(row96)/227.202727293) + (v(row97)*v(row97)/224.957173488) + (v(row98)*v(row98)/188.202786905) + (v(row99)*v(row99)/222.817559176) + (v(row100)*v(row100)/209.658359639) + (v(row101)*v(row101)/229.90653601) + (v(row102)*v(row102)/205.347225309) + (v(row103)*v(row103)/215.301037307) + (v(row104)*v(row104)/255.21120512) + (v(row105)*v(row105)/203.323438934) + (v(row106)*v(row106)/213.92669941) + (v(row107)*v(row107)/226.36569189) + (v(row108)*v(row108)/226.422431469) + (v(row109)*v(row109)/203.060225359) + (v(row110)*v(row110)/233.281002232) + (v(row111)*v(row111)/227.778061355) + (v(row112)*v(row112)/213.378303315) + (v(row113)*v(row113)/208.722349249) + (v(row114)*v(row114)/204.511412762) + (v(row115)*v(row115)/223.405066852) + (v(row116)*v(row116)/235.312262776) + (v(row117)*v(row117)/211.231199383) + (v(row118)*v(row118)/201.756346686) + (v(row119)*v(row119)/213.265490966) + (v(row120)*v(row120)/249.856895105) + (v(row121)*v(row121)/217.427303974) + (v(row122)*v(row122)/193.722238165) + (v(row123)*v(row123)/204.914045784) + (v(row124)*v(row124)/213.928021338) + (v(row125)*v(row125)/203.436776939) + (v(row126)*v(row126)/227.000667231) + (v(row127)*v(row127)/221.633534729)
.control
set filetype=ascii
tran 0.05n 10.002n
meas tran energy INTEG v(pwr) FROM=0n TO=10.002n
wrdata experiments/spice/results/cmm_crosssim_read_energy/spice_validation/low_layers_0_ffn_3_r0c0.dat v(pwr)
quit
.endc
.end
